US08168659B2
4-(3-Fluoro-phenyl)-N-(4-trifluoromethoxy-phenyl)-4-oxo-butyramide
Stir 4-(3-fluoro-phenyl)-4-oxo-butyric acid [C.A. 69797-46-2] (J. Med. Chem. (1983) 26 381) (1.96 g, 10 mmol), 4-trifluoromethoxyaniline (1.77 g, 10 mmol) and O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) (3.5 g, 11 mmol) in dimethylformamide (30 mL). Add triethylamine (2.02 g, 20 mmol). Stir at room temperature for 48 hours. Pour into dilute aqueous HCl (250 mL) and extract into ethyl acetate. Wash the organic phase three times with water, dry over anhydrous magnesium sulfate, evaporate and purify on a silica gel column (dichloromethane-ethyl acetate) to give the titled compound (3.13 g, 88% yield) MS (m/z): 356 (M+1).

reactant | 4-(3-fluoro-phenyl)-4-oxo-butyric acid | 10 mmol, 1.96 g | FC=1C=C(C=CC1)C(CCC(=O)O)=O | C10H9FO3
reactant | 4-trifluoromethoxyaniline | 10 mmol, 1.77 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 11 mmol, 3.5 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 250 mL | Cl | ClH
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-(3-Fluoro-phenyl)-N-(4-trifluoromethoxy-phenyl)-4-oxo-butyramide | 3.13 g, 88% yield | FC=1C=C(C=CC1)C(CCC(=O)NC1=CC=C(C=C1)OC(F)(F)F)=O | C17H13F4NO3
